US05372932
N-(4-hydroxy-3-chloro-1-naphthyl)-2-aminoacetamide.
The preferred peroxidase stabilizers are 3',5'-dichloro-4'-hydroxyacetanilide, 3'-chloro-4'-hydroxyacetanilide and 3',5'-dichloro-4'-hydroxy-2'-methylacetanilide.

reactant | 3',5'-dichloro-4'-hydroxyacetanilide | ClC=1C=C(NC(C)=O)C=C(C1O)Cl | C8H7Cl2NO2
reactant | 3'-chloro-4'-hydroxyacetanilide | ClC=1C=C(NC(C)=O)C=CC1O | C8H8ClNO2
reactant | 3',5'-dichloro-4'-hydroxy-2'-methylacetanilide | ClC=1C(=C(NC(C)=O)C=C(C1O)Cl)C | C9H9Cl2NO2
product | N-(4-hydroxy-3-chloro-1-naphthyl)-2-aminoacetamide | OC1=C(C=C(C2=CC=CC=C12)NC(CN)=O)Cl | C12H11ClN2O2
